US08471005B2
Into a 30 mL vial, 5-Bromo-7-(4-methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.140 g, 0.000351 mol) and Methylene chloride (4 mL, 0.07 mol). m-CPBA 70-75% (70:30, m-Chloroperbenzoic acid:3-Chlorobenzoic acid, 0.0910 g, 0.000369 mol) was added portion wise over 10 minutes. The reaction was stirred at room temperature for 2 hours. HPLC suggested no starting material. The reaction was partitioned with DCM and NaHCO3. The organic was separated, washed with water, subsequently Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The organic was removed under vacuum to give 5-Bromo-2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (140 mg, 96%). The solid was used as is without further purification.

reactant | 5-Bromo-7-(4-methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.000351 mol, 0.140 g | BrC=1C=C(N2N=C(N=CC21)SC)C2=CC=C(C=C2)S(=O)(=O)C | C14H12BrN3O2S2
reactant | Methylene chloride | 0.07 mol, 4 mL | C(Cl)Cl | CH2Cl2
reactant | m-CPBA | 0.000369 mol, 0.0910 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 5-Bromo-2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 140 mg, 96% | BrC=1C=C(N2N=C(N=CC21)S(=O)C)C2=CC=C(C=C2)S(=O)(=O)C | C14H12BrN3O3S2
